2108-10-28 07:15:00 Physician Resident Progress Note
Chief Complaint: peritonitis, post-op hypotension
   24 Hour Events:
 INVASIVE VENTILATION - START [**2108-10-27**] 11:18 PM
 PA CATHETER - START [**2108-10-27**] 11:25 Pm
 ARTERIAL LINE - START [**2108-10-27**] 11:27 PM
   brought back to TSICU post op at 11:30 pm, post-op resuscitation. has
   gotten total ~ 6L fluid, cvp still bordeline low, lactate up and UOP
   borderline. Con't fluid, pressor prn, levophed up to 0.15.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Erythromycin (Oral) (Erythromycin Base)
   Nausea/Vomiting
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2108-10-28**] 12:55 AM
   Ciprofloxacin - [**2108-10-28**] 02:16 AM
   Metronidazole - [**2108-10-28**] 06:30 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-10-28**] 02:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia, hypotension
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2108-10-28**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 108 (108 - 131) bpm
   BP: 90/48(62) {79/44(56) - 127/84(220)} mmHg
   RR: 14 (14 - 15) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
    CVP: 11 (6 - 215)mmHg
   PAP: (35 mmHg) / (18 mmHg)
   PCWP: 12 (9.[**Numeric Identifier 1955**] - 13) mmHg
   CO/CI (Thermodilution): (4.16 L/min) / (2.5 L/min/m2)
   CO/CI (CCO): (4.04 L/min) / (2.5 L/min/m2)
   SVR: 1,465 dynes*sec/cm5
   Mixed Venous O2% Sat: 78 - 78
   SV: 34 mL
   SVI: 21 mL/m2
   Total In:
                                                                  4,017 mL
                                                                  2,285 mL
   PO:
                                   TF:
   IVF:
                                                                  4,017 mL
                                                                  2,285 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    160 mL
   Urine:
                                                                    100 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,517 mL
                                                                  2,125 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.38/38/175/21/-1
   Ve: 8 L/min
   PaO2 / FiO2: 350
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, wound C/D/I, no bleeding/d/c
   Extremities: Right: 1+, Left: 1+
   Skin:  Cool
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Decreased
   Labs / Radiology
   196 K/uL
   10.8 g/dL
   204 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.0 mEq/L
   16 mg/dL
   103 mEq/L
   132 mEq/L
   31.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2108-10-28**]  12:11 AM
                             [**2108-10-28**]  12:15 AM
                             [**2108-10-28**]  03:00 AM
                             [**2108-10-28**]  03:02 AM
   WBC
   6.1
   Hct
   35
   31.9
   Plt
   196
   Cr
   0.7
   TCO2
   19
   23
   Glucose
   204
   Other labs: PT / PTT / INR:15.8/36.8/1.4, Lactic Acid:3.9 mmol/L,
   Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ASSESSMENT AND PLAN:  78 yo F, s/p Laparoscopic paraesophageal hernia
   repair w/ [**Last Name (un) 1951**] gastroplasty and Nissen fundoplication [**5-/2108**], now w/
   SBO and lap LOA c/b enterotomy and peritonitis, retake for open washout
   and oversew.
   NEUROLOGIC:  intubated/sedated
   sedation: fentanyl/versed.   Change to Ativan prn
   Pain:  fentanyl
   CARDIOVASCULAR:  pt came out of surgery w/ dopamine/levophed and
   sedated w/ propofol, was tachy in 120-30's and BP 80-90's, changed to
   above sedation and pressors and fluid resusc w/ 3L LR, responded well.
   Has R IJ [**Year (4 digits) 1956**] w/ SWAN. con't levophed/fluid resusc
   fluid resusc
   levophed gtt
   PULMONARY:  intubated, CMV, gas looks good
   GI / ABD:  NPO, soft, wound
   NUTRITION: will discuss in am
   RENAL : Cr 0.7, good UOP post op.  low output now.
   HEMATOLOGY: Hct pre/post stable, min to zero EBL
   ENDOCRINE:  SSI
   ID:  Vanc/Cipro/Flagyl, broad for bowel perf
   LINES/TUBES/DRAINS:  RIJ [**Last Name (LF) **], [**First Name3 (LF) **] line, PIV, OG, foley
   WOUNDS:  abd: C/D/I
   FLUIDS:  @L LR bolus, then LR @125
   CONSULTS:  primary [**Doctor First Name **]
   BILLING DIAGNOSIS:  Shock,NOS/   Respiratory failure
   ICU CARE:
   GLYCEMIC CONTROL:  ssi
   PROPHYLAXIS:
   DVT -  sch, boots
   STRESS ULCER -  ppi
   VAP BUNDLE -
   COMMUNICATIONS:
   ICU Consent:  will get
   CODE STATUS:  presumed full
   DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PA Catheter - [**2108-10-27**] 11:25 PM
   Arterial Line - [**2108-10-27**] 11:27 PM
   14 Gauge - [**2108-10-28**] 01:05 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2108-10-31 08:24:00 Physician Resident Progress Note
Chief Complaint: peritonitis, post-op hypotension
   24 Hour Events:
   off all pressors, fentanyl gtt d/c, prn dilauded, TPN started,
   chemistries stable. WBC up
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsErythromycin (Oral)
   (Erythromycin Base)
   Nausea/Vomiting
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2108-10-29**] 08:08 PM
   Metronidazole - [**2108-10-30**] 11:00 PM
   Ciprofloxacin - [**2108-10-31**] 02:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-10-30**] 05:00 PM
   Lorazepam (Ativan) - [**2108-10-31**] 12:10 AM
   Hydromorphone (Dilaudid) - [**2108-10-31**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: OG / NG tube
   Psychiatric / Sleep: Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2108-10-31**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 103 (91 - 106) bpm
   BP: 110/72(90) {74/44(66) - 141/96(98)} mmHg
   RR: 16 (12 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.1 kg (admission): 58.5 kg
   Height: 63 Inch
    CVP: 6 (3 - 9)mmHg
   Total In:
                                                                  2,994 mL
                                                                    727 mL
   PO:
   TF:
   IVF:
                                                                  2,723 mL
                                                                    383 mL
   Blood products:
   Total out:
                                                                  3,560 mL
                                                                  1,710 mL
   Urine:
                                                                  3,410 mL
                                                                  1,610 mL
   NG:
                                                                    150 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -566 mL
                                                                   -982 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, peripheral edema improving
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: mild over surgical
   wound, c/d/i
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x1, reoriented x3 immediately, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   117 K/uL
   9.2 g/dL
   116 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.9 mEq/L
   17 mg/dL
   101 mEq/L
   134 mEq/L
   27.1 %
   14.8 K/uL
        [image002.jpg]
                             [**2108-10-28**]  10:00 PM
                            [**2108-10-29**]  02:41 AM
                            [**2108-10-29**]  04:43 AM
                            [**2108-10-29**]  06:03 AM
                            [**2108-10-29**]  09:55 AM
                            [**2108-10-29**]  03:36 PM
                            [**2108-10-29**]  09:48 PM
                            [**2108-10-30**]  03:01 AM
                            [**2108-10-30**]  05:12 PM
                            [**2108-10-31**]  02:25 AM
   WBC
   15.6
   18.2
   14.8
   Hct
   31.9
   26.7
   27.1
   Plt
   142
   116
   117
   Cr
   1.0
   1.0
   0.9
   0.9
   0.8
   0.8
   0.9
   TCO2
   21
   22
   26
   Glucose
   134
   103
   134
   108
   81
   116
   Other labs: PT / PTT / INR:15.4/43.3/1.4, Lactic Acid:2.9 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ELECTROLYTE & FLUID DISORDER, OTHER
 OLIGURIA/ANURIA
 HYPOTENSION (NOT SHOCK)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ASSESSMENT AND PLAN:  78 yo F, s/p Laparoscopic paraesophageal hernia
   repair w/ [**Last Name (un) 1951**] gastroplasty and Nissen fundoplication [**5-/2108**], now w/
   SBO and lap LOA c/b enterotomy and peritonitis, retake for open washout
   and oversew.
   NEUROLOGIC: alert and oriented
   sedation: ativan PRN
   Pain:  dilauded prn
   CARDIOVASCULAR: off all pressors, BP nl/stable
   PULMONARY:  stable, wean O2 as tolerated
   GI / ABD:  NPO, soft, wound c/d/i, minimal gastric output
   NUTRITION: consider starting on clears
   RENAL : Cr 0.8, monitor UOP, trend NA has been stable at 126
   HEMATOLOGY: Hct 26.7
   ENDOCRINE:  SSI
   ID:  Vanc/Cipro/Flagyl, broad for bowel perf, WBC has increased, but
   afebrile and no new complaints.
   LINES/TUBES/DRAINS:  RIJ, art line, PIV, foley
   WOUNDS:  abd: C/D/I
   FLUIDS:  D5 NS 75cc/hr
   CONSULTS:  primary [**Doctor First Name **]
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL:  ssi
   PROPHYLAXIS:
   DVT -  sch
   STRESS ULCER -  ppi
   VAP BUNDLE -
   COMMUNICATIONS:
   ICU Consent:  obtained
   CODE STATUS:  presumed full
   DISPOSITION:  consider floor.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2108-10-30**] 06:00 PM 41.[**Telephone/Fax (5) 542**] mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2108-10-28**] 11:01 PM
   Multi Lumen - [**2108-10-29**] 12:48 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU